US06333324B1
Sodium hydride (60% in oil dispersion, 1.22 g, 50.9 mmol) was washed with dry tetrahydrofuran (20 ml×3) under nitrogen atomosphere. Freshly distilled tetrahydrofuran (50 ml) was added and the mixture was cooled to 0° C. with an ice bath. To this mixture was added portionwise solution of benzyl alcohol (5 g, 46.2 mmol) in dry tetrahydrofuran (10 ml) and the mixture was stirred for 1 hour at said temperature. To the resulting mixture was added γ-thiobutyrolactone (5.2 g, 50.9 mmol) slowly and the resulting mixture was warmed to room temperature. After stirring for 1 hour, H2O (30 ml) was added carefully and tetrahydrofuran was removed under reduced pressure. The residue was extracted three times with AcOEt. The organic layers were combined, washed with brine, and dried over magnesium sulfate. The solvent was evaporated to give 9.96 g of benzyl 4-mercaptobutyrate as a colorless oil which was taken to the next step without further purification.

reactant | Sodium hydride | 50.9 mmol, 1.22 g | [H-].[Na+]
reactant | benzyl alcohol | 46.2 mmol, 5 g | C(C1=CC=CC=C1)O | C7H8O
reactant | γ-thiobutyrolactone | 50.9 mmol, 5.2 g | C1(CCCO1)=S | C4H6OS
reactant | H2O | 30 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | benzyl 4-mercaptobutyrate | 9.96 g | SCCCC(=O)OCC1=CC=CC=C1 | C11H14O2S
